datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC=C(C)C(=O)O[C@H]1CC[C@@]2(C)[C@@H]3CC[C@H]4[C@]5(O)C[C@H](O)[C@@]6(O)[C@@H](C[N+:21]7([H:20])C[C@@H](C)CC[C@H]7[C@@]6(C)O)[C@]5(O)C[C@@]42O[C@]13O.Cc1ccc(C(=O)[O-:10])cc1Br>>CC=C(C)C(=O)O[C@H]1CC[C@@]2(C)[C@@H]3CC[C@H]4[C@]5(O)C[C@H](O)[C@@]6(O)[C@@H](C[N:21]7C[C@@H](C)CC[C@H]7[C@@]6(C)O)[C@]5(O)C[C@@]42O[C@]13O.Cc1ccc(C(=O)[O:10][H:20])cc1Br 10=20;20,21=21",
"COc1ccc[n+:21]([H:20])c1.c1ccc2c[n+](CCC[NH2:10])ccc2c1>>COc1ccc[n:21]c1.c1ccc2c[n+](CCC[NH2+:10][H:20])ccc2c1 10=20;20,21=21",
"O=[N+]([O-])c1ccc(Cl)cc1C[NH2+:21][H:20].Oc1cccc(C[NH2:10])c1O>>O=[N+]([O-])c1ccc(Cl)cc1C[NH2:21].Oc1cccc(C[NH2+:10][H:20])c1O 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-])[NH:10]C1C(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)C1CC(CC(=O)[O-])[NH+:10]([H:20])C1C(=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH:10]CCN.c1cnc2ccc3c(ccc[n+:21]3[H:20])c2c1>>CC[NH+:10](CCN)[H:20].c1cnc2ccc3c(ccc[n:21]3)c2c1 10=20;20,21=21",
"CC(C)(C)c1cc[n+:21]([H:20])cc1.O=C(N[NH2:10])c1ccncc1>>CC(C)(C)c1cc[n:21]cc1.O=C(N[NH2+:10][H:20])c1ccncc1 10=20;20,21=21",
"CC(C)(C)CC#CC(=O)[O:21][H:20].COc1cccc(C[NH2:10])c1O>>CC(C)(C)CC#CC(=O)[O-:21].COc1cccc(C[NH2+:10][H:20])c1O 10=20;20,21=21",
"Cc1cc(O)n(-c2nc([O:21][H:20])cc(C)[nH+]2)n1.O=S1(=O)OC(c2cc(Br)c(O)c(Br)c2)(c2cc(Br)c([O-:10])c(Br)c2)c2ccccc21>>Cc1cc(O)n(-c2nc([O-:21])cc(C)[nH+]2)n1.O=S1(=O)OC(c2cc(Br)c(O)c(Br)c2)(c2cc(Br)c([O:10][H:20])c(Br)c2)c2ccccc21 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(C[NH2:10])nc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(C[NH2+:10][H:20])nc1 10=20;20,21=21",
"C1C[N:10]2CC[C@@H]3OC[C@H]1[C@@H]32.CCC(C)[NH+:21](C(C)CC)[H:20]>>C1C[N+:10]2([H:20])CC[C@@H]3OC[C@H]1[C@@H]32.CCC(C)[NH:21]C(C)CC 10=20;20,21=21",
"CCC(C)(O)C(C(=O)[O-:10])c1ccc(-c2ccccc2)cc1.Nc1ccccc1B(O)[O:21][H:20]>>CCC(C)(O)C(C(=O)[O:10][H:20])c1ccc(-c2ccccc2)cc1.Nc1ccccc1B(O)[O-:21] 10=20;20,21=21",
"CC[N+:21](O)(CC)[H:20].Nc1c[n:10]c([S-])nc1N>>CC[N:21](O)CC.Nc1c[n+:10]([H:20])c([S-])nc1N 10=20;20,21=21",
"C=C[C@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](O)c1cc[n:10]c2ccccc12.CCCC[N+:21]1([H:20])CCCC1C>>C=C[C@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](O)c1cc[n+:10]([H:20])c2ccccc12.CCCC[N:21]1CCCC1C 10=20;20,21=21",
"CSc1ccc([NH2+:21][H:20])cc1I.[N-]=[N+]=Nc1ncnc2nc[n-:10]c12>>CSc1ccc([NH2:21])cc1I.[N-]=[N+]=Nc1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"C[N:10](C)CCCCCCCCCNC(=O)/C=N/[O-].O=Cc1cccc[n+:21]1[H:20]>>C[N+:10](C)(CCCCCCCCCNC(=O)/C=N/[O-])[H:20].O=Cc1cccc[n:21]1 10=20;20,21=21",
"COc1ccc2nccc(C(O)C3CCCC[NH:10]3)c2c1.ONc1nc[n+:21]([H:20])c2nc[nH]c12>>COc1ccc2nccc(C(O)C3CCCC[NH+:10]3[H:20])c2c1.ONc1nc[n:21]c2nc[nH]c12 10=20;20,21=21",
"COP(=O)(c1ccc([N+](=O)[O-])cc1)[N-:10]c1nccs1.O=C(/C=N/[O:21][H:20])CCl>>COP(=O)(c1ccc([N+](=O)[O-])cc1)[N:10](c1nccs1)[H:20].O=C(/C=N/[O-:21])CCl 10=20;20,21=21",
"Cc1c(Cl)ccc2c1nnn2[O-:10].c1ccc2nc3cc([O:21][H:20])ccc3nc2c1>>Cc1c(Cl)ccc2c1nnn2[O:10][H:20].c1ccc2nc3cc([O-:21])ccc3nc2c1 10=20;20,21=21",
"O=C(c1ccccc1O[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O)[O:21][H:20].O=C1C=CC(=O)[N-:10]C1=NO>>O=C(c1ccccc1O[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O)[O-:21].O=C1C=CC(=O)[N:10]([H:20])C1=NO 10=20;20,21=21",
"CC(C)[NH2+]CCCCCC[NH:10]C(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)[NH2+]CCCCCC[NH+:10](C(C)C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1cc([O-])ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc([O-])ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C#N)CC(=O)[O:21][H:20].C[C@H]1[C@H]([NH3+])[C@@H]1[NH2:10]>>CC(C)(C#N)CC(=O)[O-:21].C[C@H]1[C@H]([NH3+])[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"COC(=O)C1=CCC[N:10](C)C1.c1ccc2cc([O:21][H:20])c(C3=[NH+]CCN3)cc2c1>>COC(=O)C1=CCC[N+:10](C)([H:20])C1.c1ccc2cc([O-:21])c(C3=[NH+]CCN3)cc2c1 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)Nc2nc(C)cc[n+:21]2[H:20])cc1.O=[N+]([O-])c1ccc2c([O-:10])cccc2c1>>CC(=O)Nc1ccc(S(=O)(=O)Nc2nc(C)cc[n:21]2)cc1.O=[N+]([O-])c1ccc2c([O:10][H:20])cccc2c1 10=20;20,21=21",
"CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[C@@]12CC(=O)N[C@]1(CCC(=O)[O-])C(=O)[N:21]([H:20])C2=O>>CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[C@@]12CC(=O)N[C@]1(CCC(=O)[O-])C(=O)[N-:21]C2=O 10=20;20,21=21",
"C[N+]1(CCCCCC(=O)[O:21][H:20])CCCCC1.c1ccc2c(c1)cn[n-:10]2>>C[N+]1(CCCCCC(=O)[O-:21])CCCCC1.c1ccc2c(c1)cn[n:10]2[H:20] 10=20;20,21=21",
"CC[NH+](CC)CCOCC[N+:21](C)(CC)[H:20].NN=C(N)c1ncnc2nc[n-:10]c12>>CC[NH+](CC)CCOCC[N:21](C)CC.NN=C(N)c1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"CC(C)(C)[NH2+]CC(=O)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C)[NH2+]CC(=O)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(=O)OC(C)C[N:10](C)C.CN(C)C(=O)C[S:21][H:20]>>CCC(=O)OC(C)C[N+:10](C)(C)[H:20].CN(C)C(=O)C[S-:21] 10=20;20,21=21",
"NC(=O)C(N)Cc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC(=O)C(N)Cc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
